US06967204B2
Oxalyl chloride (12.3 ml, 141 mmol) was added dropwise to a suspension of 5-butyl-4-nitro-1H-pyrazol-3-carboxylic acid (10 g, 46.9 mmol) in dichloromethane (100 ml) containing dimethylformamide (0.5 ml) under nitrogen at 0° C. The reaction was stirred at 0° C. for 1 hours, allowed to warm to room temperature and stirred for a further 2 hours. The solvent was removed under reduced pressure, the residue was dissolved in toluene (100 ml) and ammonia gas was bubbled into the solution for 2 hours. The reaction was stirred under nitrogen at room temperature for 18 hours, concentrated under reduced pressure and the residue was purified by flash column chromatography on silica gel eluting with dichloromethane:methanol (9:1, by volume) to give 5-butyl-4-nitro-1H-pyrazol-3-carboxylic acid amide (3.1 g) as an orange solid. 1H NMR (400 MHz, DMSO-D6): δ=7.87-7.96 (1H, brs), 7.57-7.66 (1H, brs), 2.83-2.90 (2H, t), 1.56-163 (2H, quin), 1.24-1.36 (2H, sext), 0.84-0.92 (3H, t) ppm. LRMS (electrospray): m/z [M−H]+ 211. Anal. Found C, 44.66; H, 5.56; N, 25.50. C8H12N4O3.0.23 mol H2O requires C, 44.41; H, 580; N, 25.90%.

reactant | Oxalyl chloride | 141 mmol, 12.3 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-butyl-4-nitro-1H-pyrazol-3-carboxylic acid | 46.9 mmol, 10 g | C(CCC)C1=C(C(=NN1)C(=O)O)[N+](=O)[O-] | C8H11N3O4
reactant | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 5-butyl-4-nitro-1H-pyrazol-3-carboxylic acid amide | 3.1 g | C(CCC)C1=C(C(=NN1)C(=O)N)[N+](=O)[O-] | C8H12N4O3
